US05322847
1. methyl 3-(phenyl-trans-ethenyl)benzoate
Using the procedure of Preparation H1, 2.37 g of triphenyl benzyl phosphonium chloride (Aldrich), 1.0 g of methyl 3-carbonylbenzoate and 2.44 ml of 2.5M solution of n-butyl lithium in hexane in 50 ml (total) of tetrahydrofuran gave 208 mg of the titled product, m.p. 108°-109° C.

reactant | methyl 3-carbonylbenzoate | 1.0 g | C(=O)=C1CC(C(=O)OC)=CC=C1 | C9H8O3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
catalyst | triphenyl benzyl phosphonium chloride | 2.37 g | [Cl-].C1(=CC=CC=C1)[P+](CC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 3-(phenyl-trans-ethenyl)benzoate | 208 mg | C1(=CC=CC=C1)/C=C/C=1C=C(C(=O)OC)C=CC1 | C16H14O2
